datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC[NH:10]CC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCC[NH+:10](CC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCOCCn1c(CN2CCC[NH+](CCCCn3cccn3)CC2)[n+:21]([H:20])c2ccccc21.[NH3+]CCCCCc1cc[n:10]cc1>>CCOCCn1c(CN2CCC[NH+](CCCCn3cccn3)CC2)[n:21]c2ccccc21.[NH3+]CCCCCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CCNc1nc(NC(C)C)nc(Cl)[n+:21]1[H:20].C[N:10]1CCCCCC1>>CCNc1nc(NC(C)C)nc(Cl)[n:21]1.C[N+:10]1([H:20])CCCCCC1 10=20;20,21=21",
"CO/C(C)=C\C(=O)[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CO/C(C)=C\C(=O)[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc(-c2oc(-c3ccccc3)c[n:10]2)cc1.Cn1c(CBr)[n+:21]([H:20])c2c(O)ccc(O)c21>>COc1ccc(-c2oc(-c3ccccc3)c[n+:10]2[H:20])cc1.Cn1c(CBr)[n:21]c2c(O)ccc(O)c21 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2c(CC[NH2:10])c[nH]c2c1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2c(CC[NH2+:10][H:20])c[nH]c2c1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].O=[PH]([O-])C(NCc1ccncc1)c1ccccc1[O-:10]>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].O=[PH]([O-])C(NCc1ccncc1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"C1CCC([NH2:10])CC1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C1CCC([NH2+:10][H:20])CC1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"NCCCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NCCCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(O)[C@@H]1C[NH+:21]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].[OH2+]C[O-:10]>>CC(O)[C@@H]1C[NH:21][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].[OH2+]C[O:10][H:20] 10=20;20,21=21",
"COc1ccc2c(c1)c(N1CCOCC1)c1c([n+:21]2[H:20])CCC1.c1ccc(C[NH:10]C(CC2CCCCC2)CC2CCCCC2)cc1>>COc1ccc2c(c1)c(N1CCOCC1)c1c([n:21]2)CCC1.c1ccc(C[NH+:10](C(CC2CCCCC2)CC2CCCCC2)[H:20])cc1 10=20;20,21=21",
"CCCC[NH:10]CC(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCC[NH+:10](CC(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C)=CCC1=C(O)C(O)(CC=C(C)C)C(=O)C(C(=O)CC(C)C)=C1[O:21][H:20].CCc1cccc(/N=N/c2ccc([N:10](C)C)cc2)c1>>CC(C)=CCC1=C(O)C(O)(CC=C(C)C)C(=O)C(C(=O)CC(C)C)=C1[O-:21].CCc1cccc(/N=N/c2ccc([N+:10](C)(C)[H:20])cc2)c1 10=20;20,21=21",
"CC[N+:21](CC)(NC)[H:20].OCCCCCc1cccc[n:10]1>>CC[N:21](CC)NC.OCCCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"C[C@H]([C@H](O)c1ccccc1)[NH:10]C.c1ccc(-c2cccc([NH2+:21][H:20])c2)cc1>>C[C@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20].c1ccc(-c2cccc([NH2:21])c2)cc1 10=20;20,21=21",
"[NH3+]CCC[NH2+:21][H:20].[O-]c1c2nccnc2cc[n:10]1>>[NH3+]CCC[NH2:21].[O-]c1c2nccnc2cc[n+:10]1[H:20] 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1cccnc1>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1cccnc1)[H:20] 10=20;20,21=21",
"CCN[N+:21](C)(CC)[H:20].C[C@]12CC[C@@H]3c4ccc([O-:10])cc4CC[C@H]3[C@@H]1C[C@@H](O)[C@@H]2O>>CCN[N:21](C)CC.C[C@]12CC[C@@H]3c4ccc([O:10][H:20])cc4CC[C@H]3[C@@H]1C[C@@H](O)[C@@H]2O 10=20;20,21=21",
"C[n+]1c(N[NH2+:21][H:20])ccc2ccccc21.O=C(C1(O)CCCCCC1)[O-:10]>>C[n+]1c(N[NH2:21])ccc2ccccc21.O=C(C1(O)CCCCCC1)[O:10][H:20] 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCn1cc[n+:21]([H:20])c1.C[NH+](C)C([O-])[O-:10]>>CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCn1cc[n:21]c1.C[NH+](C)C([O-])[O:10][H:20] 10=20;20,21=21",
"O=C([O-])CCCCCCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CCCCCCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)C(=O)OCC(=O)[O-:10].N#CCCN[NH2+:21][H:20]>>CN(C)C(=O)OCC(=O)[O:10][H:20].N#CCCN[NH2:21] 10=20;20,21=21",
"CCCc1ccccc1[NH2:10].NNC(=O)C[NH2+:21][H:20]>>CCCc1ccccc1[NH2+:10][H:20].NNC(=O)C[NH2:21] 10=20;20,21=21",
"CC[N+:21](Cl)(CC)[H:20].C[Si](C)(CCl)CCCC(=O)[O-:10]>>CC[N:21](Cl)CC.C[Si](C)(CCl)CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"Brc1ccc[n:10]c1.C[n+]1ccc(N)[n+:21]([H:20])c1[O-]>>Brc1ccc[n+:10]([H:20])c1.C[n+]1ccc(N)[n:21]c1[O-] 10=20;20,21=21",
"C=CCC1(C2C=CCCC2)C(=O)[N-]C(=S)[N-:10]C1=O.CC(=O)NCC[NH2+:21][H:20]>>C=CCC1(C2C=CCCC2)C(=O)[N-]C(=S)[N:10]([H:20])C1=O.CC(=O)NCC[NH2:21] 10=20;20,21=21",
"CC1(C)NC(=S)[N-:10]C1=O.O=[PH](C([NH2+]Cc1cc[nH+]cc1)c1ccccc1O)[O:21][H:20]>>CC1(C)NC(=S)[N:10]([H:20])C1=O.O=[PH](C([NH2+]Cc1cc[nH+]cc1)c1ccccc1O)[O-:21] 10=20;20,21=21",
"CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1ccc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])cc1.CN(C)c1ccc([N-:10]C=S)cc1>>CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1ccc([N-:21]S(=O)(=O)c2ccc(N)cc2)cc1.CN(C)c1ccc([N:10](C=S)[H:20])cc1 10=20;20,21=21",
"CC(CCC(=O)[O-])[NH2+:21][H:20].c1ccc2c(CC[NH2:10])c[nH]c2c1>>CC(CCC(=O)[O-])[NH2:21].c1ccc2c(CC[NH2+:10][H:20])c[nH]c2c1 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)[N-:10]c2nccc(C)n2)cc1.CCOc1cccc(C(=O)[O:21][H:20])c1>>CC(=O)Nc1ccc(S(=O)(=O)[N:10](c2nccc(C)n2)[H:20])cc1.CCOc1cccc(C(=O)[O-:21])c1 10=20;20,21=21",
